US07951828B1
Step 2: Production of 4-bromo-N-(methoxyiminomethyl)-2-methyl benzoic acid amide
In a solution of 0.67 g of 4-bromo-N-(dimethylaminomethylidene)-2-methyl benzoic acid amide in 10 mL of 1,4-dioxane, a solution of 0.36 g of methoxyamine hydrochloride in 2 mL of water was added, and stirred at room temperature for 1 hour. After the completion of the reaction, the reaction mixture was diluted with 50 mL of ethyl acetate, washed with water, and dehydrated with and dried over saturated sodium chloride aqueous solution and then anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 0.70 g of the aimed product as white crystal.

reactant | 4-bromo-N-(dimethylaminomethylidene)-2-methyl benzoic acid amide | 0.67 g | BrC1=CC(=C(C(=O)N=CN(C)C)C=C1)C | C11H13BrN2O
reactant | methoxyamine hydrochloride | 0.36 g | Cl.CON
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-bromo-N-(methoxyiminomethyl)-2-methyl benzoic acid amide | 0.70 g | BrC1=CC(=C(C(=O)NC=NOC)C=C1)C | C10H11BrN2O2
